US08114867B2
51.i. [3-(6-methoxy-[1,5]naphthyridin-4-yl)-prop-2-ynyl]-carbamic acid tert-butyl ester
To a solution of N-Boc propargyl amine (3.25 g, 20.9 mmol) and 8-bromo-2-methoxy-[1,5]naphthyridine (5.00 g, 20.9 mmol; prepared as in WO 2006/032466) and TEA (17.5 mL, 6 eq.) in DMF (120 mL) were added Pd(PPh3)2Cl2 (755 mg, 1.08 mmol) and CuI (432 mg, 2.27 mmol). The mixture was degassed with a stream of N2 for 15 min and then stirred at rt for 5 h. The mixture was partitioned between water and EA, the org. layer was washed several times with water and a sat. NH4Cl solution, dried over MgSO4 and concentrated. Chromatography on SiO2 (Hex/EA 1:1, EA) gave the coupling product as a beige solid (2.90 g, 44% yield).

reactant | N-Boc propargyl amine | 20.9 mmol, 3.25 g | C(=O)(OC(C)(C)C)NCC#C | C8H13NO2
reactant | 8-bromo-2-methoxy-[1,5]naphthyridine | 20.9 mmol, 5.00 g | BrC=1C=CN=C2C=CC(=NC12)OC | C9H7BrN2O
reactant | EA | CC(OCC)=O | C4H8O2
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 1.08 mmol, 755 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 2.27 mmol, 432 mg | [Cu]I
product | [3-(6-methoxy-[1,5]naphthyridin-4-yl)-prop-2-ynyl]-carbamic acid tert-butyl ester | 2.90 g, 44% yield | C(C)(C)(C)OC(NCC#CC1=CC=NC2=CC=C(N=C12)OC)=O | C17H19N3O3
